US05110956
[[1-{(1,3-Benzodioxol-5-yl)methyl}propyl]thio]acetic acid
2.2 g of 5-(1-butenyl)-1,3-benzodioxole and 5.4 g of mercaptoacetic acid were heated at 60° C. for 3 h. The reaction mixture was diluted with ethyl acetate, washed with water and an aqueous common salt solution and dried over magnesium sulfate. The solvent was distilled off and the product was separated according to silica gel column chromatography (chloroform) to obtain 1.8 g of the intended compound in the form of a colorless oil.

reactant | 5-(1-butenyl)-1,3-benzodioxole | 2.2 g | C(=CCC)C1=CC2=C(OCO2)C=C1 | C11H12O2
reactant | mercaptoacetic acid | 5.4 g | SCC(=O)O | C2H4O2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [[1-{(1,3-Benzodioxol-5-yl)methyl}propyl]thio]acetic acid | 1.8 g | O1COC2=C1C=CC(=C2)CC(CC)SCC(=O)O | C13H16O4S
